US05643925
3-(3-Nitro-4-trifluoroacetamidophenyl)propionic acid
2 g of 3-(4-amino-3-nitrophenyl)propionic acid (prepared as described in Preparation 4) were dissolved in 10 ml of trifluoroacetic anhydride,. The solution was then stirred for 2 hours at room temperature, after which it was mixed with ethyl acetate, washed with water, and with a saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. The solvent was removed by distillation under reduced pressure, the residue was mixed with toluene and the remaining trifluoroacetic acid was removed by azeotropic distillation, to obtain 1.5 g of the title compound as crystals.

reactant | 3-(4-amino-3-nitrophenyl)propionic acid | 2 g | NC1=C(C=C(C=C1)CCC(=O)O)[N+](=O)[O-] | C9H10N2O4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | trifluoroacetic anhydride | 10 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 3-(3-Nitro-4-trifluoroacetamidophenyl)propionic acid | 1.5 g | [N+](=O)([O-])C=1C=C(C=CC1NC(C(F)(F)F)=O)CCC(=O)O | C11H9F3N2O5
